US04027040
A mixture of 28.82 g of triphenylphosphine, 21.2 g of 1-iodo-hexane and 200 ml of xylene was refluxed for 5 hours and then was cooled. The solvent was decanted and the gummy residue was triturated with ether and dried at 90° to 100° C. under reduced pressure to obtain 44.53 g of n-hexyltriphenylphosphonium iodide melting at 106° C.

reactant | triphenylphosphine | 28.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-iodo-hexane | 21.2 g | ICCCCCC | C6H13I
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | n-hexyltriphenylphosphonium iodide | 44.53 g | [I-].C(CCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H28P.HI/c1-2-3-4-14-21-25(22-15-8-5-9-16-22,23-17-10-6-11-18-23)24-19-12-7-13-20-24;/h5-13,15-20H,2-4,14,21H2,1H3;1H/q+1;/p-1
